US04704464
225 mmoles (9.00 grams) of NaOH were dissolved in 45 ml of water, cooled in an ice bath and treated with 49 mmoles (7.35 grams) of (S)-1,2-diamino-3-phenylpropane dissolved in about 45 ml of benzene. Within 30 minutes with stirring there was dropped in a solution of 108 mmoles (10.3 ml) of ethyl chloroformate in 45 ml of benzene and the mixture allowed to stir for 3 hours at room temperature. The organic phase was separated off and the aqueous solution shaken twice with 20 ml of benzene. The combined phases were dried over sodium sulfate and freed from solvent. There were obtained 40.33 mmoles (11.87 grams) of colorless, crystalline solid [(S)-1,2-bis(N-ethyloxycarbonylamino)-3-phenylpropane]. This was added in small portions to an ice cooled suspension of 370 mmoles (14.0 grams) of LiAlH4 in 300 ml of tetrahydrofuran. After heating for 24 hours under reflux by ice cooling the product was carefully hydrolyzed with 1.5 moles (27 ml) of water. The hydrolysis products were filtered off and the filtrate concentrated. The residue was extracted for 12 hours with 150 ml of tetrahydrofuran in a Soxhlet apparatus. The extract was combined with the filtrate and the solvent distilled off in a vacuum. The light brownish liquid was distilled in a high vacuum at 85° C. Colorless liquid.

reactant | NaOH | 225 mmoles, 9.00 grams | [OH-].[Na+]
reactant | (S)-1,2-diamino-3-phenylpropane | 49 mmoles, 7.35 grams | NC[C@H](CC1=CC=CC=C1)N | C9H14N2
reactant | ethyl chloroformate | 108 mmoles, 10.3 ml | ClC(=O)OCC | C3H5ClO2
solvent | water | 45 ml | O | H2O
solvent | benzene | about 45 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 45 ml | C1=CC=CC=C1 | C6H6
product | (S)-1,2-bis(N-ethyloxycarbonylamino)-3-phenylpropane | C(C)OC(=O)NC[C@H](CC1=CC=CC=C1)NC(=O)OCC | C15H22N2O4
